US08614209B2
(4,4-Dimethyl-azepan-1-yl)-{5-[1-(2-hydroxy-ethyl)-1H-pyrazol-4-yl]-thiophen-3-yl}-methanone (EE-21)
(4,4-Dimethyl-azepan-1-yl)-[5-(1H-pyrazol-4-yl)-thiophen-3-yl]-methanone (0.075 g, 0.25 mmol) was dissolved in DMF (1 mL) and potassium carbonate (44 mg, 0.32 mmol) was added followed by 2-bromoethanol (27 μL, 0.38 mmol). The reaction mixture was heated at 100° C. overnight then quenched by addition of ammonium chloride. The mixture was extracted with ethyl acetate (×2) then the organics were washed with lithium chloride (15% aqueous solution) and evaporated. The crude material was purified by chromatography on a silica II cartridge, eluting with 10-66% ethyl acetate in cyclohexane. The residue was purified by HPLC, eluting with 10%-98% acetonitrile in water (0.1% formic acid) over 20 minutes. The fractions containing the desired product were concentrated under vacuum and freeze-dried to give the title compound as a colourless oil (0.020 g). LCMS m/z 348.29 [M+H]+ R.T.=8.62 min (Analytical Method 2).

reactant | (4,4-Dimethyl-azepan-1-yl)-[5-(1H-pyrazol-4-yl)-thiophen-3-yl]-methanone | 0.25 mmol, 0.075 g | CC1(CCN(CCC1)C(=O)C1=CSC(=C1)C=1C=NNC1)C | C16H21N3OS
reactant | potassium carbonate | 0.32 mmol, 44 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 0.38 mmol, 27 μL | BrCCO | C2H5BrO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (4,4-Dimethyl-azepan-1-yl)-{5-[1-(2-hydroxy-ethyl)-1H-pyrazol-4-yl]-thiophen-3-yl}-methanone | 0.020 g | CC1(CCN(CCC1)C(=O)C1=CSC(=C1)C=1C=NN(C1)CCO)C | C18H25N3O2S
